US07446118B2
3-(1H-Indol-6-yl)-3-pyridin-2-yl-acrylic acid ethyl ester CLVII was prepared from 6-bromo-1H-indole and 3-pyridin-2-yl-acrylic acid ethyl ester using the procedure described for preparation of 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (Example 14).

reactant | 6-bromo-1H-indole | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | 3-pyridin-2-yl-acrylic acid ethyl ester | C(C)OC(C=CC1=NC=CC=C1)=O | C10H11NO2
reactant | 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(1H-Indol-6-yl)-3-pyridin-2-yl-acrylic acid ethyl ester | C(C)OC(C=C(C1=NC=CC=C1)C1=CC=C2C=CNC2=C1)=O | C18H16N2O2
